US03931172
To a flask containing 6 g. of 1-tert.-butyl-5-chloro-6-methyl-3-phenyl-2,1-benzisoxazolium tetrafluoroborate is added 9 ml. of morpholine and the mixture heated at 80°C. for 1 hour. The reaction mixture is washed in diethyl ether and water and the ether layer separated, dried, evaporated in vacuo to dryness and the residue recrystallized from ether/methylene chloride to obtain 1-tert.-butyl-5-chloro-6-methyl-3-morpholino-3-phenyl-2,1-benzisoxazoline, m.p. 131°-133°C.

reactant | 1-tert.-butyl-5-chloro-6-methyl-3-phenyl-2,1-benzisoxazolium tetrafluoroborate | F[B-](F)(F)F.C(C)(C)(C)[N+]=1OC(=C2C1C=C(C(=C2)Cl)C)C2=CC=CC=C2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-tert.-butyl-5-chloro-6-methyl-3-morpholino-3-phenyl-2,1-benzisoxazoline | C(C)(C)(C)N1OC(C2=C1C=C(C(=C2)Cl)C)(C2=CC=CC=C2)N2CCOCC2 | C22H27ClN2O2
